US04620865
To a solution of 20.0 g of 5-amino-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester and 10 ml of bromine in 200 ml of chloroform was added 15.8 g of isoamyl nitrite dropwise. The reaction mixture was allowed to stir at room temperature for about 24 hours and the volatiles were removed under reduced pressure. The residue was recrystallized from ethanol/water to provide 10.0 g of 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester. Yield 38%. mp=86°-89° C.

reactant | 5-amino-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 20.0 g | NC1=C(C=NN1C1=CC=CC=C1)C(=O)OCC | C12H13N3O2
reactant | bromine | 10 ml | BrBr | Br2
reactant | isoamyl nitrite | 15.8 g | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 10.0 g, Yield 38% | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)OCC | C12H11BrN2O2
